US05607960
(a) 3-(N-Benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-(3-oxo-1-but-1-enyl)-1H-indole
Obtained by a procedure similar to that described in Example 1, from 3-(N-benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-bromo-1H-indole (Preparation 1) and methyl vinyl ketone, as a foam. Rf 0.60 (SS 7). [α]D25 -51° (c=0.1, CH3OH). Found: C,74.16; H,6.39; N,6.92. C25H26N2O3 requires C,74.60; H,6.51; N,6.96%.

reactant | 3-(N-benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-bromo-1H-indole | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)Br | C21H21BrN2O2
reactant | methyl vinyl ketone | C(=C)C(=O)C | C4H6O
solvent | CH3OH | CO | CH4O
product | 3-(N-Benzyloxycarbonyl-2(R)-pyrrolidinylmethyl)-5-(3-oxo-1-but-1-enyl)-1H-indole | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)CC1=CNC2=CC=C(C=C12)C=CC(C)=O | C25H26N2O3
